US03991202
4.2 parts of 1-[2,4-dichloro-β-(2,4-dichlorobenzyloxy)phenethyl]imidazole, 3.1 parts of 2-(p-bromophenoxy)ethyl bromide and 24 parts of acetonitrile are stirred together overnight at reflux temperature to obtain the desired 1-[2-(p-bromophenoxy)ethyl]-3-[2,4-dichloro-β-(2,4-dichlorobenzyloxy)phenethyl]imidazolium bromide product. The product is recovered from the reaction mixture by (a) diluting the latter with diisopropyl ether (b) adding three drops of water to precipitate the product as a crystalline solid, and (c) filtering off the precipitated solid. After purification by recrystallization from a mixture of 4-methyl-2-pentanone and diisopropyl ether, the product has a melting point of 131.5°-132.5° C.

reactant | 1-[2,4-dichloro-β-(2,4-dichlorobenzyloxy)phenethyl]imidazole | ClC1=C(C(CN2C=NC=C2)OCC2=C(C=C(C=C2)Cl)Cl)C=CC(=C1)Cl | C18H14Cl4N2O
reactant | 2-(p-bromophenoxy)ethyl bromide | BrC1=CC=C(OCCBr)C=C1 | C8H8Br2O
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-[2-(p-bromophenoxy)ethyl]-3-[2,4-dichloro-β-(2,4-dichlorobenzyloxy)phenethyl]imidazolium bromide | [Br-].BrC1=CC=C(OCC[N+]2=CN(C=C2)CC(C2=C(C=C(C=C2)Cl)Cl)OCC2=C(C=C(C=C2)Cl)Cl)C=C1 | InChI=1S/C26H22BrCl4N2O2.BrH/c27-19-2-6-22(7-3-19)34-12-11-32-9-10-33(17-32)15-26(23-8-5-21(29)14-25(23)31)35-16-18-1-4-20(28)13-24(18)30;/h1-10,13-14,17,26H,11-12,15-16H2;1H/q+1;/p-1
